US05466661
2-(4-Chlorobenzyloxy)benzaldehyde oxime (26.17 g) was dissolved in ether (200 ml) and methylene chloride (50 ml), and chlorine (6.0 ml) was introduced at -10° C. or below, and then the temperature was raised from -10° C. to room temperature over 2 hours. After completion of the reaction, the mixture was concentrated under reduced pressure to give crude α-chloro-2-(4-chlorobenzyloxy)benzaldehyde oxime. The resulting crude product was dissolved in acetonitrile (150 ml), a mixture of imidazole (17.02 g) and acetonitrile (100 ml) was added at room temperature over 15 minutes, and then the resulting mixture was stirred at 65 to 70° C. for 2 hours. After completion of the reaction, water and methylene chloride were added. The resulting crystals were separated by filtration to give 2-(4-chlorobenzyloxy)-α-(1-imidazolyl)benzaldehyde oxime (11.05 g) as colorless crystals. mp. 196°-197° C.

reactant | 2-(4-Chlorobenzyloxy)benzaldehyde oxime | 26.17 g | ClC1=CC=C(COC2=C(C=NO)C=CC=C2)C=C1 | C14H12ClNO2
reactant | chlorine | 6.0 ml | ClCl | Cl2
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | α-chloro-2-(4-chlorobenzyloxy)benzaldehyde oxime | ClC(C1=C(C=CC=C1)OCC1=CC=C(C=C1)Cl)=NO | C14H11Cl2NO2
